US09422207B2
Preparation of Ethyl 6-(furan-2-yl)-4-oxohexanoate
In a round bottom flask was placed 1.334 g (6.000 mmol) of (E)-ethyl 6-(furan-2-yl)-4-oxohex-5-enoate. 6 mL of acetonitrile was added and stirring was begun. To this was added 0.064 g Pd/C (en) and hydrogen was added using a balloon (˜1 atm). The reaction mixture was stirred for 48 h and the mixture was then purified by flash column chromatography using 15% ether/hexane, v/v. Purification gave rise to 0.4817 g (73%) of the saturated system 1H (CDCl3) δ 1.25 (t, J=7 Hz, 3H), 2.6 (m, 2H), 2.8 (m, 2H), 2.9 (m, 2H), 3.0 (m, 2H), 4.16 (q, J=7 Hz), 6.0 (1H), 6.3 (1H), 7.3 (1H).

reactant | (E)-ethyl 6-(furan-2-yl)-4-oxohex-5-enoate | 6.000 mmol, 1.334 g | O1C(=CC=C1)/C=C/C(CCC(=O)OCC)=O | C12H14O4
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.064 g | [Pd] | Pd
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | Ethyl 6-(furan-2-yl)-4-oxohexanoate | O1C(=CC=C1)CCC(CCC(=O)OCC)=O | C12H16O4
